US05262546
Synthesis of 5,6-diacetoxyindole
A suspension of 17.2 g of trans-4,5-dibenzyloxy-β-pyrrolidino-2-nitrostyrene (prepared from 3,4-dihydroxytoluene by a modified procedure of U.S. Pat. No. 3,732,245) and 3.4 g of 10% Pd/C catalyst in 200 ml ethyl acetate was shaken at room temperature, under hydrogen atmosphere and at 50 psi, for 5 hours. To this reaction mixture was added a solution of ethyl acetate (100 ml) containing acetic anhydride (24 ml), triethylamine (20 ml) and dimethylaminopyridine (800 mg) which was previously saturated with hydrogen. The resultant mixture was stirred for 30 minutes at room temperature. The catalyst was removed over a layer of Celite and the filtrate was evaporated to give an oily residue to which crushed ice was added. The resulting white precipitate was collected by filtration to give 6.08 g (65%) of DAI: mp 130°-131° C.; HNMR (300 MHz, DMSO-d6)δ 2.24 (s,6H), 6.42 (s,1H), 7.22 (s,1H), 7.32 (s,1H), 7.39 (m, 1H) 11.22 (s,1H).

reactant | trans-4,5-dibenzyloxy-β-pyrrolidino-2-nitrostyrene | 17.2 g | C(C1=CC=CC=C1)OC1=CC(=C(/C=C/N2CCCC2)C=C1OCC1=CC=CC=C1)[N+](=O)[O-] | C26H26N2O4
reactant | 3,4-dihydroxytoluene | OC=1C=C(C=CC1O)C | C7H8O2
reactant | acetic anhydride | 24 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | 800 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 3.4 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 5,6-diacetoxyindole | C(C)(=O)OC=1C=C2C=CNC2=CC1OC(C)=O | C12H11NO4
